US20010027202A1
To a solution of 4-bromo-3-(trifluoromethyl)aniline (64 g, 267 mmol) in Et2O (500 mL) was added an HCl solution (1 M in Et2O; 300 mL) dropwise and the resulting mixture was stirred at room temp. for 16 h. The resulting pink-white precipitate was removed by filtration and washed with Et2O (50 mL) and to afford 4-bromo-3-(trifluoromethyl)aniline HCl salt (73 g, 98%).

reactant | 4-bromo-3-(trifluoromethyl)aniline | 267 mmol, 64 g | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | HCl | 1 M, 300 mL | Cl | ClH
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | 4-bromo-3-(trifluoromethyl)aniline HCl salt | 73 g, 98% | Cl.BrC1=C(C=C(N)C=C1)C(F)(F)F | InChI=1S/C7H5BrF3N.ClH/c8-6-2-1-4(12)3-5(6)7(9,10)11;/h1-3H,12H2;1H
